US06420359B1
a) 6-Chloro-2-(ethylamino)-3-nitropyridine
An ice-cold solution of EtNH2 (49.8 g, 1.10 mol) in toluene (200 mL) was added over 15 min to an ice-cold solution of 2,6-dichloro-3-nitropyridine (100.0 g, 0.52 mol) in toluene (225 mL). The mixture was stirred at 0° C. for 45 min. Water (500 mL) and EtOAc (500 mL) were added and the phases were separated. The organic layer was successively washed with water (200 mL) and brine (200 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residual solid was recrystallised from MeOH to give the title compound (83.7 g, 80% yield) as yellow needles.

reactant | EtNH2 | 1.10 mol, 49.8 g | C(C)N | C2H7N
reactant | 2,6-dichloro-3-nitropyridine | 0.52 mol, 100.0 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | Water | 500 mL | O | H2O
reactant | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 225 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-2-(ethylamino)-3-nitropyridine | 83.7 g, 80% yield | ClC1=CC=C(C(=N1)NCC)[N+](=O)[O-] | C7H8ClN3O2
